US09029391B2
An ice cold solution of methyl 2-(7-(aminomethyl)-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)-2-(tert-butoxy)acetate (25 mg, 0.057 mmol) in tetrahydrofuran (THF) (1.000 mL) was treated with DIEA (0.015 mL, 0.086 mmol) and methyl 2-chloro-2-oxoacetate (6.35 μL, 0.069 mmol). After stirring for 40 min, the reaction was quenched with sat. NaHCO3, extracted with EtOAc, washed with sat. NaHCO3, Brine, dried with Na2SO4, filtered, and concentrated. The residue was hydrolyzed in a manner similar to that described in Example 165 Step C and purified by reverse phase HPLC to afford 2-(tert-butoxy)-2-(7-((carboxyformamido)methyl)-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)acetic acid (13.7 mg, 0.026 mmol, 61.2% yield) as a white solid: 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.32 (s, 1 H), 7.61-7.49 (m, 1 H), 7.36-7.22 (m, 2 H), 7.04-7.14 (m, 2 H), 5.26 (s, 1 H), 4.59 (s, 2 H), 3.75-3.68 (m, 3 H), 2.39 (s, 3 H), 2.34 (s, 3 H), 1.04-0.96 (m, 9 H); LCMS (m/z) ES+=495 (M+1).

reactant | methyl 2-(7-(aminomethyl)-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)-2-(tert-butoxy)acetate | 0.057 mmol, 25 mg | NCC1=CC=C2C(=C(N(C(C2=C1)=O)C)C(C(=O)OC)OC(C)(C)C)C1=CC(=C(C=C1)C)C | C26H32N2O4
reactant | DIEA | 0.086 mmol, 0.015 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl 2-chloro-2-oxoacetate | 0.069 mmol, 6.35 μL | ClC(C(=O)OC)=O | C3H3ClO3
reactant | tetrahydrofuran | 1.000 mL | O1CCCC1 | C4H8O
product | 2-(tert-butoxy)-2-(7-((carboxyformamido)methyl)-4-(3,4-dimethylphenyl)-2-methyl-1-oxo-1,2-dihydroisoquinolin-3-yl)acetic acid | 0.026 mmol, 13.7 mg, 61.2% yield | C(C)(C)(C)OC(C(=O)O)C=1N(C(C2=CC(=CC=C2C1C1=CC(=C(C=C1)C)C)CNC(=O)C(=O)O)=O)C | C27H30N2O7
